US05384320
Example 1 N-Hydroxy-N-[4-(1-pyrrolidyl)benzyl]urea
To a stirred solution of 1-(4-formylphenyl)pyrrolidine (1.5 g) in MeOH (50 ml) was added hydroxylamine hydrochloride (0.62 g) and pyridine (0.70 g). The mixture was stirred for 2 hours at room temperature and the solvent was removed under reduced pressure. The resulting crystals were washed with Et2O. Without further purification, a stirred solution of the product (1.03 g) in acetic acid (20 ml) was treated with NaBH3CN (0.34 g) by portions at room temperature. The mixture was stirred for 3 hours then H2O was added. The reaction mixture was cooled to 0° C. and aqueous NaOH solution was added until the mixture was basic. The resulting mixture was extracted with CH2Cl2 and washed with saturated NaCl solution. The extract was dried over MgSO4 and concentrated in vacuo. Without further purification, the crude product (1.01 g) was dissolved in dry THF (22 ml). The THF solution was stirred and trimethylsilylisocyanate (1.5 ml) was added at room temperature. The mixture was stirred for 1 hour and the solvent was removed under reduced pressure. The precipitate was purified by recrystallization from EtOH, yielding the title compound (0.40 g), m.p. 127.5°-128° C. (dec.).

reactant | 1-(4-formylphenyl)pyrrolidine | 1.5 g | C(=O)C1=CC=C(C=C1)N1CCCC1 | C11H13NO
reactant | hydroxylamine hydrochloride | 0.62 g | Cl.NO
reactant | pyridine | 0.70 g | N1=CC=CC=C1 | C5H5N
reactant | MeOH | 50 ml | CO | CH4O
product | N-Hydroxy-N-[4-(1-pyrrolidyl)benzyl]urea | 0.40 g | ON(C(=O)N)CC1=CC=C(C=C1)N1CCCC1 | C12H17N3O2
